simulator lang=spectre
global 0

ahdl_include "./dut/serializer_mux_timing_macro.va"

Vclk (clk 0) vsource type=pwl wave=[0 0 9n 0 10n 0.9 12n 0.9 12.2n 0 20n 0.9 22n 0.9 22.2n 0 30n 0.9 32n 0.9 32.2n 0 40n 0.9 42n 0.9 42.2n 0 50n 0.9 52n 0.9 52.2n 0 60n 0.9 62n 0.9 62.2n 0 70n 0.9 72n 0.9 72.2n 0 80n 0.9 82n 0.9 82.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 82n 0.9 82.2n 0 92n 0]
Vd0 (d0 0) vsource type=pwl wave=[0 0 92n 0]
Vd1 (d1 0) vsource type=pwl wave=[0 0.9 92n 0.9]
Vd2 (d2 0) vsource type=pwl wave=[0 0 92n 0]
Vd3 (d3 0) vsource type=pwl wave=[0 0.9 92n 0.9]
XDUT (clk rst enable d0 d1 d2 d3 serial_out slot_1 slot_0 valid) serializer_mux_timing_macro

tran tran stop=92n maxstep=200p
save clk rst enable d0 d1 d2 d3 serial_out slot_1 slot_0 valid
